US06472412B1
Sodium hydride (887 mg of a 60% dispersion in oil) is added to a solution of cyclopentanol (3.35 mL) in dry tetrahydrofuran (127 mL) and the mixture stirred for 1.5 hours. Cyclopentyl 6-chloro-5-methoxypyridine-2-carboxylate (6.3 g) is added and the mixture is stirred at room temperature for 21 hours. The mixture is poured into saturated aqueous ammonium chloride (500 mL) and the resulting mixture extracted with ethyl acetate (2×500 mL). The combined extracts are washed with saturated aqueous sodium bicarbonate (500 mL) and water (500 mL). After drying (MgSO4) the solution is evaporated to dryness to give a yellow oil which is purified by flash chromatography (silica with pentane/ethyl acetate 9:1 v/v as eluent) affording cyclopentyl 6-cyclopentyloxy-5-methoxypyridine-2-carboxylate (3.6 g) as an oil.

reactant | Sodium hydride | [H-].[Na+]
reactant | cyclopentanol | 3.35 mL | C1(CCCC1)O | C5H10O
reactant | Cyclopentyl 6-chloro-5-methoxypyridine-2-carboxylate | 6.3 g | ClC1=C(C=CC(=N1)C(=O)OC1CCCC1)OC | C12H14ClNO3
reactant | ammonium chloride | 500 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 127 mL | O1CCCC1 | C4H8O
product | cyclopentyl 6-cyclopentyloxy-5-methoxypyridine-2-carboxylate | 3.6 g | C1(CCCC1)OC1=C(C=CC(=N1)C(=O)OC1CCCC1)OC | C17H23NO4
